US08580957B2
A flask was charged with 1,1-dimethylethyl[(2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate (for a preparation see intermediate 50) (1 g, 2.61 mmol), phenylmethyl methyl{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}carbamate (for a preparation see intermediate 82) (1.194 g, 3.13 mmol), tetrakis(triphenylphosphine)palladium(0) (0.151 g, 0.130 mmol) and potassium carbonate (0.541 g, 3.91 mmol) then filled with ethanol (10 mL) and toluene (10 mL). The resulting mixture was degassed under house vacuo for 30 min with several quenches with nitrogen, heated to reflux for 45 min then cooled to room temperature. The insoluble material was filtered off and most of the solvent was concentrated in vacuovacuo. The residue was partitioned between DCM (100 mL) and water (100 mL). The layers were separated and the organic phase was dried through a hydrophobic frit and concentrated in vacuovacuo. Purification of the residue by SP4 using a 40 G silica cartridge (gradient:0 to 50% AcOEt in Hexanes) gave phenylmethyl({4-[(2S,4R)-1-acetyl-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}methyl)methylcarbamate (1 g, 1.7 mmol, 69%) as a white solid.

reactant | 1,1-dimethylethyl[(2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate | CC(C)(C)N(C([O-])=O)[C@@H]1C[C@@H](N(C2=CC=C(C=C12)Br)C(C)=O)C
reactant | phenylmethyl methyl{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}carbamate | CN(C(OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H28BNO4
reactant | potassium carbonate | 3.91 mmol, 0.541 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.130 mmol, 0.151 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | phenylmethyl({4-[(2S,4R)-1-acetyl-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}methyl)methylcarbamate | 1.7 mmol, 1 g, 69% | C1(=CC=CC=C1)COC(N(C)CC1=CC=C(C=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)NC(=O)OC(C)(C)C)=O | C33H39N3O5
